US04459225
(b) Glycyl-dehydrophenylalanyl-prolinamide-hydrobromide
1.3 g of benzyloxycarbonyl-glycyl-dehydrophenylalanyl-prolinamide are dissolved in 6 ml of 30% HBr in glacial acetic acid. After a reaction time of 20 minutes, at room temperature, the product is precipitated with ether, centrifuged and washed several times with ether.

reactant | benzyloxycarbonyl-glycyl-dehydrophenylalanyl-prolinamide | 1.3 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)NC(=CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N)CCC1 | C24H26N4O5
reactant | HBr | 6 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Glycyl-dehydrophenylalanyl-prolinamide-hydrobromide | Br.NCC(=O)NC(=CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N)CCC1 | InChI=1S/C16H20N4O3.BrH/c17-10-14(21)19-12(9-11-5-2-1-3-6-11)16(23)20-8-4-7-13(20)15(18)22;/h1-3,5-6,9,13H,4,7-8,10,17H2,(H2,18,22)(H,19,21);1H/t13-;/m0./s1
